US09145415B2
To 10% palladium-carbon (50 mg) and ammonium formate (228 mg), a solution of tert-butyl ((6-nitro-1H-benzo[d]imidazol-2-yl)methyl)carbamate (C19, 106 mg) in methanol (4 mL) was added at room temperature, and the mixture was stirred at room temperature for 1 hour and 30 minutes. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure. To the obtained residue, ethyl acetate and water were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl ((6-amino-1H-benzo[d]imidazol-2-yl)methyl)carbamate (C20, 100 mg).

reactant | ammonium formate | 228 mg | C(=O)[O-].[NH4+]
reactant | tert-butyl ((6-nitro-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 106 mg | [N+](=O)([O-])C=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C13H16N4O4
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | tert-butyl ((6-amino-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 100 mg | NC=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C13H18N4O2
